US03980089
Preparation of N-(4-Mercaptophenyl)pyrrole
A 1-liter 3-neck flask equipped with stirrer, condenser, heating mantle, addition funnel and thermometer is charged with 25 g (0.2 mole) of 4-aminothiophenol, 26.4 g (0.2 mole) of 2,5-dimethoxytetrahydrofuran, and 150 ml of glacial acetic acid. The reaction mass is refluxed for 30 minutes, cooled and made alkaline to a pH of 9 with 130 ml of 50% aqueous sodium hydroxide while maintaining the temperature of the reaction mixture below 25°C with a cooling bath.

reactant | 4-aminothiophenol | 0.2 mole, 25 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | 2,5-dimethoxytetrahydrofuran | 0.2 mole, 26.4 g | COC1OC(CC1)OC | C6H12O3
reactant | sodium hydroxide | 130 ml | [OH-].[Na+]
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | N-(4-Mercaptophenyl)pyrrole | SC1=CC=C(C=C1)N1C=CC=C1 | C10H9NS
